US05252538
A suspension of 2-methyloxazolo[5,4-b]pyridine-5,6-dicarboxylic acid (4.84 g, 0.0218 mol) in acetic anhydride (150 mL) is slowly heated to 70° C. at which point all the solids dissolve forming a yellow solution. The reaction mixture is heated at 70° C. overnight, cooled to room temperature, and concentrated in vacuo. Xylene is added to remove excess acetic anhydride by codistillation. 2-Methyloxazolo[5,4-b]pyridine-5,6-dicarboxylic anhydride is obtained as a pale yellow solid in 97% yield melting point 194°-196° C.

reactant | 2-methyloxazolo[5,4-b]pyridine-5,6-dicarboxylic acid | 0.0218 mol, 4.84 g | CC=1OC2=NC(=C(C=C2N1)C(=O)O)C(=O)O | C9H6N2O5
solvent | acetic anhydride | 150 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Methyloxazolo[5,4-b]pyridine-5,6-dicarboxylic anhydride | 97% yield | CC=1OC2=NC3=C(C=C2N1)C(=O)OC3=O | C9H4N2O4
